US06710906B2
A flame-dried one liter three neck round bottom flask was charged with 4-bromoanisole (50.4 g, 0.26 mole), 1,4-phenylenediamine (12.0 g, 0.11 mole), 1,1 ′-bis(diphenylphosphino)ferrocene (1.776 g, 0.0032 mole), tris(dibenzylideneacetone)dipalladium(0) (0.98 g, 0.001 mole), sodium tert-butoxide (31.2 g, 0.32 mole), and anhydrous toluene (350 ml). The reaction mixture was heated to 90° C. for 48 hours. The reaction mixture was cooled to room temperature and hexane (400 ml) was added. The solid was filtered and dissolved in ethanol (400 ml). Sodium dithionite (20.0 g) was dissolved in 300 ml water and added to the ethanol solution. This was heated to reflux for 30 minutes. After the solution was cooled to room temperature, the solid was filtered off and washed with water to give 25.7 g (72%) of N,N′-dianisyl-1,4-phenylenediamine.

reactant | 4-bromoanisole | 0.26 mole, 50.4 g | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | 1,4-phenylenediamine | 0.11 mole, 12.0 g | C1(=CC=C(C=C1)N)N | C6H8N2
reactant | sodium tert-butoxide | 0.32 mole, 31.2 g | CC(C)([O-])C.[Na+]
reactant | toluene | 350 ml | C1(=CC=CC=C1)C | C7H8
reactant | hexane | 400 ml | CCCCCC | C6H14
catalyst | 1,1 ′-bis(diphenylphosphino)ferrocene | 0.0032 mole, 1.776 g | C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 0.001 mole, 0.98 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N,N′-dianisyl-1,4-phenylenediamine | 25.7 g, 72% | C(C1=CC=C(C=C1)OC)NC1=CC=C(C=C1)NCC1=CC=C(C=C1)OC | C22H24N2O2
